US06878748B2
c) 4-(3,3-Difluoro-cyclobutylamino)-5-methanesulfonyl-2-methyl-benzoic Acid Methyl Ester
0.70 g of N-(3,3-Difluoro-cyclobutyl)-methanesulfonamide, 0.93 g of 4-fluoro-5-methanesulfonyl-2-methyl-benzoic acid methyl ester, and 1.5 ml of N″-tert-butyl-N,N,N′,N′-tetramethyl-guanidine were dissolved using 10 ml NMP (anhydrous) and stirred for 6 h at 150° C. The reaction mixture was cooled to ambient temperature and 200 ml of EE added. This solution was washed three times using 20 ml of a saturated aqueous NaHSO4-solution each time. Thereafter, the organic layer was washed three times using 30 ml of a saturated aqueous Na2CO3-solution each time. The organic layer was dried over MgSO4 and the solvent removed in vacuo. Chromatography on silica gel using DIP yielded 220 mg of a colourless foam.

reactant | N-(3,3-Difluoro-cyclobutyl)-methanesulfonamide | 0.70 g | FC1(CC(C1)NS(=O)(=O)C)F | C5H9F2NO2S
reactant | 4-fluoro-5-methanesulfonyl-2-methyl-benzoic acid methyl ester | 0.93 g | COC(C1=C(C=C(C(=C1)S(=O)(=O)C)F)C)=O | C10H11FO4S
reactant | N″-tert-butyl-N,N,N′,N′-tetramethyl-guanidine | 1.5 ml | C(C)(C)(C)N=C(N(C)C)N(C)C | C9H21N3
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 4-(3,3-Difluoro-cyclobutylamino)-5-methanesulfonyl-2-methyl-benzoic Acid Methyl Ester | 220 mg | COC(C1=C(C=C(C(=C1)S(=O)(=O)C)NC1CC(C1)(F)F)C)=O | C14H17F2NO4S
